US09403845B2
Preparation of 6-[1-(3-pyridyl)pyrazol-4-yl]-2,3-dihydropyrano[3,2-b]pyridin-4-one
AD-mix-a (13.9 g, 1.44 g/mmol) was added to t-BuOH/H2O (45 ml/45 ml), stirred at rt for 5 min. MeSO2NH2 (936 mg, 9.85 mmol) and K2OsO4.2H2O (21 mg, 0.058 mmol) was added to the reaction mixture. The mixture was then cooled with ice, 4-methylene-6-[1-(3-pyridyl) pyrazol-4-yl]-2,3-dihydropyrano[3,2-b]pyridine (2.8 g, 9.66 mmol) in THF (25 ml) was added slowly to the above solution. Sodium sulfite (22 g, 2.25 g/mmol) was then added. After stirring for 15 min at 0° C., the ice bath was removed and the reaction mixture was stirred at rt for 45 min. The mixture was diluted with DCM (100 ml) and H2O (100 ml) and the two layers were separated. The organic layer was washed with brine, dried over Na2SO4, filtered and concentrated, which was used directly for the next step. The crude product was dissolved in a 1:1 mixture of dioxane (30 ml) and H2O (30 ml), and sodium periodate (1.9 g, 9.26 mmol) was added. The reaction mixture was stirred at rt for 1 h. The reaction mixture was diluted with DCM (50 ml) and H2O (50 ml) and the two layers were separated. The organic layer was dried over Na2SO4, filtered and concentrated. The resulting residue was purified by silica gel chromatography (EtOAc/MeOH, 50/1) to afford the title compound as red solid.

reactant | MeSO2NH2 | 9.85 mmol, 936 mg | CS(=O)(=O)N | CH5NO2S
reactant | 4-methylene-6-[1-(3-pyridyl) pyrazol-4-yl]-2,3-dihydropyrano[3,2-b]pyridine | 9.66 mmol, 2.8 g | C=C1CCOC=2C1=NC(=CC2)C=2C=NN(C2)C=2C=NC=CC2 | C17H14N4O
reactant | Sodium sulfite | 22 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | sodium periodate | 9.26 mmol, 1.9 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | THF | 25 ml | C1CCOC1 | C4H8O
solvent | dioxane | 30 ml | O1CCOCC1 | C4H8O2
solvent | H2O | 30 ml | O | H2O
solvent | DCM | 50 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 ml | O | H2O
solvent | t-BuOH H2O | 45 ml | CC(C)(C)O.O
product | 6-[1-(3-pyridyl)pyrazol-4-yl]-2,3-dihydropyrano[3,2-b]pyridin-4-one | N1=CC(=CC=C1)N1N=CC(=C1)C1=CC=C2C(=N1)C(CCO2)=O | C16H12N4O2
